US06103910
b) (R)-1-[[2-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-3,4,5,6-tetrachloro-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 220 mg (0.34 mmol) (R)-1-[[2-[2-[(R)-2-tert-butoxycarbonyl -pyrrolidin-1-yl]-2-oxo-ethoxy]-3,4,5,6-tetrachloro-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 1.5 ml trifluoroacetic acid was stirred for 4 h at room temperature. The solvent was removed in vacuo and the residue suspended in 10 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 172 mg (94%) of the title compound as a white powder. MS m/e (%): 559 (M-H-, 100).

reactant | (R)-1-[[2-[2-[(R)-2-tert-butoxycarbonyl -pyrrolidin-1-yl]-2-oxo-ethoxy]-3,4,5,6-tetrachloro-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.34 mmol, 220 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C28H36Cl4N2O8
solvent | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[2-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-3,4,5,6-tetrachloro-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid | 172 mg, 94% | C(=O)(O)[C@@H]1N(CCC1)C(COC1=C(OCC(=O)N2[C@H](CCC2)C(=O)O)C(=C(C(=C1Cl)Cl)Cl)Cl)=O | C20H20Cl4N2O8
